US05286742
Preparation of Ethyl 2,3-dichlorocinnamate, (E)-
A mixture of 2,3-dichlorobenzaldehyde (17.5 g, 0.1 mol), triethyl phosphonoacetate (22.4 g, 0.12 mol), lithium chloride (5.1 g, 0.12 mol) and triethylamine (17 mL, 0.12 mol) in acetonitrile is stirred at room temperature for 1 hour and diluted with a water/ethyl acetate mixture. The organic phase is separated, washed with water dried over anhydrous Na2SO4 and concentrated in vacuo to give the title product as a yellow solid (42 g).

reactant | 2,3-dichlorobenzaldehyde | 0.1 mol, 17.5 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | lithium chloride | 0.12 mol, 5.1 g | [Cl-].[Li+]
reactant | triethylamine | 0.12 mol, 17 mL | C(C)N(CC)CC | C6H15N
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 2,3-dichlorocinnamate | 42 g | ClC1=C(C=CC(=O)OCC)C=CC=C1Cl | C11H10Cl2O2
